US05374641
Ethyl 4-[2-formamido-2-(3-pyridyl)ethyl]cinnamate (0.40 g) was dissolved in a mixed solvent of 10 ml of ethanol, 10 ml of tetrahydrofuran and 8 ml of water, followed by addition of 0.40 ml of concentrated sulfuric acid and heating to 65 ° C., and stirred for 17 hours. After completion of the reaction, the solvent was evaporated under reduced pressure, followed by addition of CH2Cl2 and water and subsequent gradual addition of saturated aqueous solution of sodium hydrogencarbonate to adjust the mixture to weak alkalinity. The organic phase was separated and extracted from aqueous phase with methanol-methylene chloride (5:95 v/v), followed by washing in saturated aqueous sodium chloride solution, drying over magnesium sulfate and evaporation of the solvent, to produce 0.35 g of ethyl 4-[2-amino-2-(3-pyridyl)ethyl]cinnamate.

reactant | Ethyl 4-[2-formamido-2-(3-pyridyl)ethyl]cinnamate | 0.40 g | C(=O)NC(CC1=CC=C(C=CC(=O)OCC)C=C1)C=1C=NC=CC1 | C19H20N2O3
reactant | sulfuric acid | 0.40 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 8 ml | O | H2O
product | ethyl 4-[2-amino-2-(3-pyridyl)ethyl]cinnamate | 0.35 g | NC(CC1=CC=C(C=CC(=O)OCC)C=C1)C=1C=NC=CC1 | C18H20N2O2
